US07326718B2
2. 8-(trans-2,3-Dihydro-2-hydroxy-1-indenylamino)-2,3-dimethyl-imidazo[1,2-a]pyridine-6-carboxylic acid
2.0 g (5.7 mmol) methyl 8-(trans-2,3-dihydro-2-hydroxy-1-indenylamino)-2,3-dimethyl-imidazo[1,2-a]pyridine-6-carboxylate are suspended in 100 ml dioxane and 20 ml 2N aqueous sodium hydroxide and heated to reflux. After 1 h the reaction mixture is cooled down, evaporated in vacuo to ¼ of its volume and 50 ml water are added. The pH of the mixture is adjusted to pH=7 by adding 2N hydrochloric acid and the flask is placed in an ice bath. After 30 min, the precipitate is collected, washed with water and dried in vacuo at 50° C. to yield 1.4 g (73%) of the title compound (m.p. 246-249° C.).

reactant | methyl 8-(trans-2,3-dihydro-2-hydroxy-1-indenylamino)-2,3-dimethyl-imidazo[1,2-a]pyridine-6-carboxylate | 5.7 mmol, 2.0 g | O[C@H]1[C@@H](C2=CC=CC=C2C1)NC=1C=2N(C=C(C1)C(=O)OC)C(=C(N2)C)C | C20H21N3O3
reactant | sodium hydroxide | 2N, 20 ml | [OH-].[Na+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 8-(trans-2,3-Dihydro-2-hydroxy-1-indenylamino)-2,3-dimethyl-imidazo[1,2-a]pyridine-6-carboxylic acid | 1.4 g, 73% | O[C@H]1[C@@H](C2=CC=CC=C2C1)NC=1C=2N(C=C(C1)C(=O)O)C(=C(N2)C)C | C19H19N3O3
